US05643932
In 10 ml of dimethylformamide were dissolved 860 mg of 2-(3,4-dimethoxyphenyl)-4-chloromethylthiazole and 320 mg of N-methylpiperazine. Thereto was added 130 mg of sodium hydride. The mixture was stirred at room temperature for 14 hours. The solvent was removed by distillation. The residue was extracted with chloroform. The extract was water-washed, dried and subjected to distillation to remove the solvent. The residue was dissolved in ethanol. To the solution was added ethanol saturated with hydrogen chloride gas, and the mixture was allowed to stand. The resulting crystals were collected by filtration, washed with a small amount of ethanol, dried and recrystallized from ethanol to obtain 820 mg of 2-(3,4-dimethoxyphenyl)-4-(4-methylpiperazinylmethyl)thiazole.

reactant | 2-(3,4-dimethoxyphenyl)-4-chloromethylthiazole | 860 mg | COC=1C=C(C=CC1OC)C=1SC=C(N1)CCl | C12H12ClNO2S
reactant | N-methylpiperazine | 320 mg | CN1CCNCC1 | C5H12N2
reactant | sodium hydride | 130 mg | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-dimethoxyphenyl)-4-(4-methylpiperazinylmethyl)thiazole | 820 mg | COC=1C=C(C=CC1OC)C=1SC=C(N1)CN1CCN(CC1)C | C17H23N3O2S
